US06699904B2
To a solution of 3-[4-(2-heptylamino-ethyl)-phenyl]-2,2-dimethyl-propionic acid (23 mg, 0.072 mmol), and N,N-diisopropylethylamine (0.152 mmol, 0.0264 mL) dissolved in toluene (2 mL) was added 2,4-difluorophenylisocyanate (0.0796 mmol, 0.0094 mL). The mixture was allowed to stir at room temperature for 72 hours, then was poured over 1 M HCl (5 mL). The aqueous layer was isolated and extracted with diethyl ether (2×). The organic layers were combined, washed with 2 M HCl (2×), brine (2×), dried over anhydrous sodium sulfate, and concentrated to give a clear film. The crude product was chromatographed on silica gel (Merck silica gel 60, art#9385-3) eluting with 5% methanol/methylene chloride to give 3-(4-{2-[3-(2,4-difluoro-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2,2-dimethyl-propionic acid as a clear film (18.5 mg, 54%).

reactant | 3-[4-(2-heptylamino-ethyl)-phenyl]-2,2-dimethyl-propionic acid | 0.072 mmol, 23 mg | C(CCCCCC)NCCC1=CC=C(C=C1)CC(C(=O)O)(C)C | C20H33NO2
reactant | N,N-diisopropylethylamine | 0.152 mmol, 0.0264 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4-difluorophenylisocyanate | 0.0796 mmol, 0.0094 mL | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
reactant | HCl | 1 M, 5 mL | Cl | ClH
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{2-[3-(2,4-difluoro-phenyl)-1-heptyl-ureido]-ethyl}-phenyl)-2,2-dimethyl-propionic acid | FC1=C(C=CC(=C1)F)NC(N(CCCCCCC)CCC1=CC=C(C=C1)CC(C(=O)O)(C)C)=O | C27H36F2N2O3
